US06982348B2
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(3-trifluoromethylbenzyl)propionic acid (5.85 g, 17.1 mmol) in tetrahydrofuran (100 ml) were added diphenylphosphoryl azide (4.78 ml, 22.2 mmol) and triethylamine (3.33 ml, 23.9 mmol). The reaction solution was-heated under reflux for 4 hrs. After cooling, water (200 ml) was added, and the mixture was extracted with ethyl acetate (200 ml). The extract was washed with 1N hydrochloric acid and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:ethyl acetate=10:1-5:1) to give (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (5.30 g, 91%) as crystals.

reactant | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(3-trifluoromethylbenzyl)propionic acid | 17.1 mmol, 5.85 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)C(F)(F)F)O | C17H14F4O3
reactant | diphenylphosphoryl azide | 22.2 mmol, 4.78 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 23.9 mmol, 3.33 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 5.30 g, 91% | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)C(F)(F)F | C17H13F4NO2
